US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline (50 mg) and 4-(1H-tetrazol-1-yl)benzoic acid to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(1H-tetrazol-1-yl)benzamide. MS (Q1) 421.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 50 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(1H-tetrazol-1-yl)benzoic acid | N1(N=NN=C1)C1=CC=C(C(=O)O)C=C1 | C8H6N4O2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(1H-tetrazol-1-yl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)N1N=NN=C1)=O)C1=NC=CC=C1 | C19H13ClN6O
